US07572820B2
4-Chloro-1-{2-[(2,4-difluorophenyl)oxy]ethyl}-2-methyl-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-methyl-1H-indole-5-carbonitrile and 1-[(2-bromoethyl)oxy]-2,4-difluorobenzene: 1H NMR (400 MHz, DMSO-d6) δ 7.88 (s, 1H), 7.76 (d, J=8.7 Hz, 1H), 7.50 (d, J=8.7 Hz, 1H), 7.26-7.15 (m, 1H), 7.10-7.00 (m, 1H), 6.92-6.88 (m, 1H), 4.67 (t, J=5.0 Hz, 2H), 4.30 (t, J=5.0 Hz, 2H), 3.30 (s, 3H); MS (ES) m/z 347 (M+1).

reactant | 4-chloro-2-methyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C | C10H7ClN2
reactant | 1-[(2-bromoethyl)oxy]-2,4-difluorobenzene | BrCCOC1=C(C=C(C=C1)F)F | C8H7BrF2O
product | 4-Chloro-1-{2-[(2,4-difluorophenyl)oxy]ethyl}-2-methyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CCOC1=C(C=C(C=C1)F)F)C | C18H13ClF2N2O
